US07105533B2
A solution of 4-acetyl-2-methoxyphenyl trifluoromethanesulfonate (5.8 g, 19.5 mmol) in THF (100 mL) was degassed by bubbling argon through the solution for 15 min, then treated with 2-pyridylzinc bromide (39 mL of 0.5M in THF, 19.5 mmol) and Pd(PPh3)4 (1.1 g, 0.97 mmol). The resulting reaction mixture was degassed again and heated to reflux for 12 h under an atmosphere of argon. The reaction mixture was cooled to rt, concentrated and purified by flash column chromatography on silica gel eluting with EtOAc:hexanes (1:9 to 2:3) to afford 1-(3-methoxy-4-pyridin-2-ylphenyl)ethanone.

reactant | 4-acetyl-2-methoxyphenyl trifluoromethanesulfonate | 19.5 mmol, 5.8 g | FC(S(=O)(=O)OC1=C(C=C(C=C1)C(C)=O)OC)(F)F | C10H9F3O5S
reactant | 2-pyridylzinc bromide | 19.5 mmol, 0.5M, 39 mL | [Br-].N1=C(C=CC=C1)[Zn+]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
catalyst | Pd(PPh3)4 | 0.97 mmol, 1.1 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-(3-methoxy-4-pyridin-2-ylphenyl)ethanone | COC=1C=C(C=CC1C1=NC=CC=C1)C(C)=O | C14H13NO2
